US08981085B2
Nicotinoyl chloride hydrochloride (0.70 g, 3.90 mmol) was added to 4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (0.22 g, 1.30 mmol) in pyridine (5 mL). The reaction was stirred at room temperature for 10 minutes, and then the pyridine was removed. THF (5 mL) and 2N LiOH (3 mL) were added, and the reaction was stirred for 20 minutes. The THF was removed, and water (20 mL) was added. The solid formed was collected by filtration and dried to give N-(4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (0.33 g, 92% yield) as a solid.

reactant | Nicotinoyl chloride hydrochloride | 3.90 mmol, 0.70 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 1.30 mmol, 0.22 g | FC1=C2C(=NC=C1F)NC=C2N | C7H5F2N3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 0.33 g, 92% yield | FC1=C2C(=NC=C1F)NC=C2NC(C2=CN=CC=C2)=O | C13H8F2N4O
